Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tylenol
 
Attending: ___.
 
Chief Complaint:
right leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with known hepC, DM2, substance abuse and current 
homelessness presenting today with RLE pain. Per patient he 
reports breaking his right leg by stepping off the curb a couple 
weeks ago. Reportedly he was treated at ___, but denied 
casting at that time. He presents today with worsening pain, 
refractory to Tramadol.  
Of note, pt was at rehab for alcohol detox last week. Since he 
has left, he has been drinking large amounts of alcohol ___ 
pints hard alcohol daily). His last drink was this morning. Also 
has been using Xanax (quantity and time course unclear). 
Importantly, he has experienced withdrawal seizures in the past. 
 
 
In the ED, initial VS: 97.7 ___ 18 98% RA. Patient noted 
to be tremulous, smelling of alcohol and urine, also requesting 
detox. Initial labs remarkable for EtOH 120, positive benzos. 
Plan films showed no evidence of fracture. CIWA score of 17 at 
baseline. SW consult requested. Prior to transfer patient had 
received valium 40mg, thiamine 100mg, and folic acid 1mg and 1L 
NS. VS prior to transfer: 98.0 88 134/79 18 100%  
On arrival to the floor, vital signs: 98.4 173/75 106 18 97RA. 
He is complaining of right knee pain. He is agitated and 
requesting food.  
 
ROS: + nasal congestion, per HPI, denies fever, chills, night 
sweats, headache, vision changes, rhinorrhea, congestion, sore 
throat, cough, shortness of breath, chest pain, abdominal pain, 
nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  

 
Past Medical History:
 DMII  
- Hypertension  
- Hepatitis C  
- Alcohol dependence  
- Benzo abuse  
- Tobacco abuse  
- S/p hernia repair  
- posttraumatic arthritis s/p knee and femur reconstruction 
after MVC ___ years ago with patellectomy ___ years ago.  

 
Social History:
___
Family History:
Mother died of breast cancer, father died from stroke 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - 98.4 173/75 106 18 97RA  
GENERAL - disheveled, agitated, tremulous, in fetal position in 
bed.  
HEENT - NC/AT, PERRL, EOMI (no nystagmus), OP clear, dry MM  
NECK - supple,  
HEART - tachycardic, regular rhythm, no murmurs  
LUNGS - CTAB  
ABDOMEN - soft/NT/ND, no rebound/guarding  
EXTREMITIES - Scar noted on right knee. right knee with 1cm 
abrasion, suprapatellar swelling and tenderness to palpation. 
Full AROM. Strength intact. 2+ DPs  
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, tremulous, gait not assessed.  

DISCHARGE PHYSICAL EXAM:  
VS - 98.5 141/81 78 16 96RA  
GENERAL - alert, oriented x3, not tremulous, NAD.  
HEENT - PERRL, EOMI (no nystagmus), MMM
HEART - RRR, no murmurs  
LUNGS - CTAB  
ABDOMEN - soft/NT/ND, no rebound/guarding  
EXTREMITIES - Scar on right knee. right knee with 1cm abrasion, 
suprapatellar swelling and tenderness to palpation. Full AROM. 
Strength intact. 2+ DPs  
SKIN - no rashes or lesions  

 
Pertinent Results:
ADMISSION LABS:
___ 11:26AM BLOOD WBC-6.5# RBC-4.59* Hgb-13.9*# Hct-41.3 
MCV-90# MCH-30.2# MCHC-33.6 RDW-14.2 Plt ___
___ 11:26AM BLOOD Neuts-57.8 ___ Monos-5.8 Eos-2.1 
Baso-0.8
___ 11:26AM BLOOD Glucose-148* UreaN-17 Creat-0.8 Na-136 
K-6.5* Cl-100 HCO3-22 AnGap-21*
___ 11:26AM BLOOD LD(LDH)-810* CK(CPK)-504*
___ 11:26AM BLOOD CK-MB-21* MB Indx-4.2
___ 11:26AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.0
___ 11:26AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-POS Barbitr-NEG Tricycl-NEG
___ 11:31AM BLOOD Lactate-5.0* K-5.1
___ 04:39PM BLOOD Lactate-2.3*

DISCHARGE LABS:
___ 06:45AM BLOOD WBC-4.3 RBC-3.86* Hgb-11.5* Hct-34.9* 
MCV-90 MCH-29.9 MCHC-33.1 RDW-13.4 Plt ___
___ 06:45AM BLOOD Glucose-188* UreaN-14 Creat-0.8 Na-141 
K-3.7 Cl-105 HCO3-28 AnGap-12
___ 06:45AM BLOOD ALT-31 AST-29 AlkPhos-76 TotBili-0.6
___ 06:45AM BLOOD Calcium-8.5 Phos-3.0 Mg-1.9

URINE: 
___ 03:18PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:18PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-300 Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 03:18PM URINE RBC-0 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

PLAIN FILM XRAYS:
TWO VIEWS OF THE RIGHT FEMUR: There is no evidence of a right 
femoral neck fracture.  There is evidence of an old distal right 
femoral fracture with a medial plate and multiple interlocking 
screws.  There is a fracture of the third most superior screw.  
Otherwise, no other acute fractures are noted in the hardware. 
TWO VIEWS OF THE RIGHT TIBIA AND FIBULA: There is no evidence of 
acute fracture or dislocation.  The bones are diffusely 
demineralized.  Diffuse vascular calcifications are noted. 

 
Brief Hospital Course:
___ with known hepC, DM2, alcohol abuse and homelessness was 
admitted with right lower extremity pain and alcohol withdrawal. 
 

ACTIVE ISSUES: 
# ETOH/Benzo withdrawal: He presented with tremors, agitation, 
nausea, and endorsed heavy alcohol use and benzo use ending 
morning of ___. In the setting of prior DTs and withdrawal 
seizures he was treated with Valium per CIWA scoring.  He also 
received IVF, thiamine, MVI, and folate.  On the morning of ___, 
he was no longer exibiting signs of withdrawal and was not 
scoring on CIWA.  He was seen by social work and addiction team, 
but left against medical advice before housing could be 
arranged.  

# Post-traumatic arthritis.  He complained of suprapatellar 
right knee and leg pain on presentation that has been 
exacerbated since his recent fall from curb 2 weeks ago.  
Initially seen by ___, however it is unclear what came of 
that ED visit.  His plain films here show broken screw, but no 
fractures or joint effusion.  He was seen by ortho who 
recommended pain management and total knee arthroplasty as an 
elective procedure in the future.  They did not feel that the 
broken screw on xray needed to be repaired.  He received 
oxycodone for pain (he refused tramadol/tylenol/nsaids).  

#AMA:  Patient left AMA on ___ at 3pm.  He was no longer in 
withdrawal from alcohol.  He was agitated, yet able to verbalize 
the risks and benefits of leaving on his own will.  He denied 
SI/HI at that time.  

CHRONIC ISSUES:

# DM: His blood sugars were occasionally elevated to 200s and 
low 300s after meals. He was kept on ISS, but would frequently 
refuse injections. 

#Hep C: He has a known history of hep C that has not been 
treated.  His LFTs were within normal limits.  He has not 
followed through with outpatient hepatology follow-ups that were 
arranged.  

TRANSITIONAL:
-Patient homeless 
-As above, he left AMA on ___
 
Medications on Admission:
NONE
 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Chewable Multi Vitamin]   1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
3. Nicotine Patch 14 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour 1 patch daily Disp #*30 
Unit Refills:*0
4. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth dailyu Disp #*30 
Tablet Refills:*0
5. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: alcohol withdrawl,
Secondary: Hep c

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure to care for you at ___.  You were admitted 
for alcohol withdrawl and treated with medications to treat your 
symptoms.  You were seen by the orthopedics service for your leg 
pain and they determined that there was no operation needed to 
adress it.  

We tried to find you a place at the ___ house, but 
you decided to leave before this was completed.

It is important that you do not smoke or take drugs.
 
Followup Instructions:
___